US04957537
To a solution of 2-(2-chlorophenyl)maleic anhydride (125.0 g) in acetic acid (1.2 1) is added cyclohexylamine (59.4 g) and the mixture is refluxed for 12 hours. The solvent is distilled off and the residue is dissolved in ethyl acetate (500 ml). This solution is successively washed with 5% hydrochloric acid (150 ml), sodium hydrogen carbonate solution (500 ml) and water (150 ml) and dried over magnesium sulfate. The solvent is distilled off and the residue is distilled off to give N-cyclohexyl-(2-chlorophenyl)maleimide (oil) (90.2 g), b.p. 171°-176° C./0.8 ton.

reactant | 2-(2-chlorophenyl)maleic anhydride | 125.0 g | ClC1=C(C=CC=C1)/C=1/C(=O)OC(\C1)=O | C10H5ClO3
reactant | cyclohexylamine | 59.4 g | C1(CCCCC1)N | C6H13N
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-cyclohexyl-(2-chlorophenyl)maleimide | 90.2 g | C1(CCCCC1)N1C(C(=CC1=O)C1=C(C=CC=C1)Cl)=O | C16H16ClNO2
